US08383654B2
Step 13: N-{3-tert-Butylsulfanylmethyl-4-[4-(2H-tetrazol-5-ylmethyl)-pyrazol-1-ylmethyl]-phenyl}-2,2-dimethyl-propionamide
To N-[3-tert-butylsulfanylmethyl-4-(4-cyanomethyl-pyrazol-1-ylmethyl)-phenyl]-2,2-dimethyl-propionamide (0.015 g, 0.04 mmol) in toluene (1 mL) was added trimethylsilyl azide (0.02 mL, 0.1 mmol), followed by dibutyltin oxide (0.001 g, 0.004 mmol), and the reaction was stirred at 80° C. overnight. Starting material was still present, so additional trimethylsilyl azide (0.20 mL, 1.1 mmol) and dibutyltin oxide (0.005 g, 0.02 mmol) were added, and the reaction was stirred for 6 hours at 100° C. After work-up, the crude material was purified by preparative HPLC to give the title compound.

reactant | N-[3-tert-butylsulfanylmethyl-4-(4-cyanomethyl-pyrazol-1-ylmethyl)-phenyl]-2,2-dimethyl-propionamide | 0.04 mmol, 0.015 g | C(C)(C)(C)SCC=1C=C(C=CC1CN1N=CC(=C1)CC#N)NC(C(C)(C)C)=O | C22H30N4OS
reactant | trimethylsilyl azide | 0.1 mmol, 0.02 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.004 mmol, 0.001 g | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilyl azide | 1.1 mmol, 0.20 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.02 mmol, 0.005 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-{3-tert-Butylsulfanylmethyl-4-[4-(2H-tetrazol-5-ylmethyl)-pyrazol-1-ylmethyl]-phenyl}-2,2-dimethyl-propionamide | C(C)(C)(C)SCC=1C=C(C=CC1CN1N=CC(=C1)CC=1N=NNN1)NC(C(C)(C)C)=O | C22H31N7OS
